US09388161B2
A 500-mL round bottomed flask equipped with a heating mantle and an overhead stirrer was charged with (S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline hydrochloride (20 g, 94 mmol) followed by hydrobromic acid (48%, 154 mL, 1361 mmol). The mixture was heated to 100° C., and the reaction readily proceeded with loss of bromomethane through an uncooled reflux condenser. After 1 h, solids precipitated from the solution. The reaction was complete after 10 h at 100° C. and allowed to cool to ambient temperature while stirring overnight. The reaction mixture was placed in an ice bath and stirred for 2 h at 0-5° C. The resulting white slurry was filtered and the pot and solids were washed with 20 mL of ice cold water. The filter cake was dried on a Buchner funnel under nitrogen blanket to afford (S)-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol hydrobromide (21.71 g, 95%) as a white powder. MS (ES, m/z): 164 [M+H]+

reactant | (S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline hydrochloride | 94 mmol, 20 g | Cl.COC1=C2CC[C@@H](NC2=CC=C1)C
reactant | hydrobromic acid | 1361 mmol, 154 mL | Br | BrH
reactant | bromomethane | BrC | CH3Br
product | (S)-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol hydrobromide | 21.71 g, 95% | Br.C[C@@H]1NC=2C=CC=C(C2CC1)O | InChI=1S/C10H13NO.BrH/c1-7-5-6-8-9(11-7)3-2-4-10(8)12;/h2-4,7,11-12H,5-6H2,1H3;1H/t7-;/m0./s1
